US09382188B2
C) ethyl 2-(3-(((methylsulfonyl)oxy)methyl)phenoxy)acetate
To a solution of ethyl 2-(3-(hydroxymethyl)phenoxy)acetate (2.00 g) and triethylamine (1.44 g) in THF (10 mL) was added methanesulfonyl chloride (1.31 g) at 0° C., and the mixture was stirred for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (2.80 g) as a colorless oil.

reactant | ethyl 2-(3-(hydroxymethyl)phenoxy)acetate | 2.00 g | OCC=1C=C(OCC(=O)OCC)C=CC1 | C11H14O4
reactant | triethylamine | 1.44 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.31 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | ethyl 2-(3-(((methylsulfonyl)oxy)methyl)phenoxy)acetate | 2.80 g | CS(=O)(=O)OCC=1C=C(OCC(=O)OCC)C=CC1 | C12H16O6S
